US07985759B2
Freshly prepared methyl magnesium iodide in ether (1M, 32 mL), was added through a canula to 5-methoxyadamantan-2-one (3.0 g, 16 mmol) in THF (32 mL) at 0° C. After stirring the mixture at 0° C. for 0.5 h, the reaction mixture was quenched by adding saturated aq. NH4Cl solution. The organic layer was separated and the aqueous layer was extracted with diethyl ether. The combined organic layer was washed with water and brine, dried over anhydrous Na2SO4, and the solvent was evaporated under reduced pressure to obtain 5-methoxy-2-methyladamantan-2-ol as 1:1 anomeric mixture (3.0 g yield, 96%). m/z (M+23), 219; 1H NMR (CDCl3) 300 MHz δ 3.24 (s, 1½H), 3.23 ((s, 1½H), 2.68-2.62 (m, 1H), 2.40-1.55 (m, 10H), 1.53-1.35 (m, 2H), 1.38 (s, 3H).

reactant | methyl magnesium iodide | C[Mg]I
reactant | 5-methoxyadamantan-2-one | 16 mmol, 3.0 g | COC12CC3C(C(CC(C1)C3)C2)=O | C11H16O2
solvent | ether | 1M, 32 mL | CCOCC | C4H10O
solvent | THF | 32 mL | C1CCOC1 | C4H8O
product | 5-methoxy-2-methyladamantan-2-ol | COC12CC3C(C(CC(C1)C3)C2)(O)C | C12H20O2
